US08389555B2
STEP A: Preparation of 2-[4-(2-methoxy-phenyl)-piperazin-1-yl]ethanol (28A).
A mixture of 2.29 g (10 mmol) 1-(2-methoxy-phenyl)-piperazine hydrochloride, 7.1 mL (100 mmol) 2-bromo-ethanol, 5.52 g (40 mmol) potassium carbonate and 100 mL acetonitrile is stirred at 60° C. overnight. Filtration and concentration in vacuum yields the crude product which is purified via column chromatography over silica gel eluting with dichloromethane/ammonia-saturated methanol 98:2.

reactant | 1-(2-methoxy-phenyl)-piperazine hydrochloride | 10 mmol, 2.29 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | 2-bromo-ethanol | 100 mmol, 7.1 mL | BrCCO | C2H5BrO
reactant | potassium carbonate | 40 mmol, 5.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-[4-(2-methoxy-phenyl)-piperazin-1-yl]ethanol | Yield: 95% | COC1=C(C=CC=C1)N1CCN(CC1)CCO | C13H20N2O2
